US06399600B1
Diketene (500 μL, 545 mg, 6.5 mmoles) was dissolved, under nitrogen, in dichloromethane (2 mL), cooled to −25° C., and treated dropwise with a solution of bromine (333 μL, 1.02 g, 6.5 mmoles) in dichloromethane (2 mL). After the addition was complete, the solution was stirred at −25° C. for 15 min, and benzyl alcohol (700 μL, 732 mg, 6.8 mmoles) was added dropwise. Stirring was continued for 15 min, and the solution was warmed to room temperature and evaporated. The residue was dissolved in diethyl ether (20 mL), washed successively with saturated sodium bicarbonate (2×20 mL), water (20 mL) and saturated sodium chloride (20 mL), dried over anhydrous magnesium sulfate and evaporated to give benzyl γ-bromoacetoacetate as a pale yellow oil (1.70 g, 97%). 1HMR (CDCl3, δ): 7.36 (5H, m), 5.19 (2H, s), 4.02 (2H, s), 3.75 (2H, s). IR (neat): 3033, 1734, 1654 cm−1. Mass spectrum (Cl, m/z): 271, 273 (M+1, M+3), Calcd. for C11H11BrO3: C48.69; H 4.05. Found: C 48.55; H 3.94.

reactant | Diketene | 6.5 mmoles, 500 μL, 545 mg | C=C1CC(=O)O1 | C4H4O2
reactant | bromine | 6.5 mmoles, 333 μL, 1.02 g | BrBr | Br2
reactant | benzyl alcohol | 6.8 mmoles, 700 μL, 732 mg | C(C1=CC=CC=C1)O | C7H8O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | benzyl γ-bromoacetoacetate | 1.70 g, 97% | BrCC(CC(=O)OCC1=CC=CC=C1)=O | C11H11BrO3
